US07834034B2
Methyl 2-{[(2-aminophenyl)amino]carbonyl}-1-benzothiophene-6-carboxylate.
To a solution of benzo[b]thiophene-2,6-dicarboxylic acid 6-methyl ester (129 mg, 0.543 mmol) in DMF (4 mL) was added EDCI (125 mg, 0.652 mmol), HOBt (88 mg, 0.652 mmol). The reaction mixture was stirred for 20 min and phenylene diamine (147 mg, 1.36 mmol) was added. After 18 h, the solvent was removed and EtOAc and H2O were added. The resultant solid was filtered yielding the desired product. 1H NMR (CDCl3, 600 MHz) δ 8.53 (s, 1H), 8.01 (s, 1H), 7.99 (d, J=7.9 Hz, 1H), 7.86 (d, J=7.9 Hz, 1H), 7.23 (d, J=6.8 Hz, 1H), 7.05 (t, J=6.8 Hz, 1H), 6.81 (d, J=6.8 Hz, 1H), 6.80 (t, J=6.8 Hz, 1H), 3.90 (s, 3H). MS: cal'd 327 (MH+), exp 327 (MH+).

reactant | benzo[b]thiophene-2,6-dicarboxylic acid 6-methyl ester | 0.543 mmol, 129 mg | COC(=O)C=1C=CC2=C(SC(=C2)C(=O)O)C1 | C11H8O4S
reactant | EDCI | 0.652 mmol, 125 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.652 mmol, 88 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | phenylene diamine | 1.36 mmol, 147 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Methyl 2-{[(2-aminophenyl)amino]carbonyl}-1-benzothiophene-6-carboxylate | NC1=C(C=CC=C1)NC(=O)C=1SC2=C(C1)C=CC(=C2)C(=O)OC | C17H14N2O3S
